US03933816
A mixture of 0.01 mole of 7-trifluoromethyl-2,3dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-acetic acid ethyl ester and 0.0105 mole of phosphorus pentasulfide and 100 ml. of pyridine is heated under reflux for about 24 hours. The mixture is evaporated and the residue thus obtained is dissolved in methylene chloride-water. The organic layer is separated, washed with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate and evaporated to remove the solvent. The residue thus obtained is chromatographed on silica gel and eluted to give 2,3-dihydro-5-phenyl-2-thioxo-7-(trifluoromethyl)-1H-1,4-benzodiazepin-1-acetic acid ethyl ester.

reactant | 7-trifluoromethyl-2,3dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-acetic acid ethyl ester | 0.01 mole | C(C)OC(CN1C(CN=C(C2=C1C=CC(=C2)C(F)(F)F)C2=CC=CC=C2)=O)=O | C20H17F3N2O3
reactant | phosphorus pentasulfide | 0.0105 mole | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride water | C(Cl)Cl.O
product | 2,3-dihydro-5-phenyl-2-thioxo-7-(trifluoromethyl)-1H-1,4-benzodiazepin-1-acetic acid ethyl ester | C(C)OC(CN1C(CN=C(C2=C1C=CC(=C2)C(F)(F)F)C2=CC=CC=C2)=S)=O | C20H17F3N2O2S
